US06696473B2
B. Preparation of 3′-Ethylamino-4′-nitroacetanilide
In a manner similar to Example 31, the title compound was prepared from 3′-fluoro-4′-nitroacetanilide and ethylamine. 1H-NMR (CDCl3): δ 8.17 (1H, br s), 8.13 (1H, d), 7.57 (1H, br d), 7.33 (1H, br s), 6.38 (1H, dd), 3.36 (2H, m), 2.22 (3H, s), 1.37 (3H, t).

reactant | 3′-fluoro-4′-nitroacetanilide | FC=1C=C(NC(C)=O)C=CC1[N+](=O)[O-] | C8H7FN2O3
reactant | ethylamine | C(C)N | C2H7N
product | 3′-Ethylamino-4′-nitroacetanilide | C(C)NC=1C=C(NC(C)=O)C=CC1[N+](=O)[O-] | C10H13N3O3
